2104-04-30 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2104-4-29**] 05:50 PM
   Continued Ventilation, small fluid requirements to maintain blood
   pressure
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-4-29**] 09:00 PM
   Metronidazole - [**2104-4-30**] 06:02 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-4-30**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 75 (60 - 92) bpm
   BP: 132/60(77) {95/56(67) - 132/69(83)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,570 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                  1,570 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                    800 mL
   Urine:
                                                                    282 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    988 mL
                                                                   -358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/42/91/29/6
   Ve: 5.1 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   397 K/uL
   9.2 g/dL
   195 mg/dL
   0.9 mg/dL
   29 mEq/L
   5.0 mEq/L
   22 mg/dL
   101 mEq/L
   138 mEq/L
   28.3 %
   12.5 K/uL
        [image002.jpg]
                             [**2104-4-29**]  08:45 PM
                             [**2104-4-30**]  02:54 AM
   WBC
   12.5
   Hct
   29
   28.3
   Plt
   397
   Cr
   0.9
   TCO2
   31
   Glucose
   173
   195
   Other labs: PT / PTT / INR:13.3/25.6/1.1, ALT / AST:32/26, Alk Phos / T
   Bili:234/0.6, Albumin:3.2 g/dL, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Imaging: CXR [**4-29**] 9:00pm: Slight improvement in LLL consolidation. ET
   Tube ~ 2cm from carina
   Microbiology: MRSA Screen P
   Assessment and Plan
   76 y/oF with multiple medical comorbidities and recent prolonged
   hospitalization for pneumonia/trach found to have CBD stones base on CT
   from [**2104-4-23**] now undergoing ERCP with removal of stones and
   sphincterotomy. There is no record of fever in the accompanying notes,
   and the white count in the OSH records seems to be mildly elevated but
   stable. She does not clinically meet the criteria for cholangitis at
   this time.
   # CBD Stones
   - s/p ERCP now, will hold aspirin for now per advanced endoscopy team
   for now
   - will continue antibiotics for now per-procedurally, and discuss with
   team for duration. Likely 24-48h and trend WBC since this has been
   managed interventionally. Cipro 400mg IV q12h and metronidazole 500mg
   IV q8h.
   - trend tbili, lfts
   # Respiratory Failure/COPD
   - Patient underwent procedure under anesthesia and was intubated for
   this procedure.
   - on AC for now, will change to CPAP/PS and aim for extubation tomorrow
   after SBT
   # Diabetes
   - Noted to be type one, had
 dose glargine last night, and received
   glucagon during ERCP which could elevate BS. For now will continue the
   glargine 13 units sc at bedtime, and cover with humalog sliding scale.
   If difficult to control sugars, we can change over to nph and humalog
   coverage to allow for tighter titration.
   # Chronic Diastolic CHF
   - compensated and stable at this time. Will hold dose of lisinopril
   overnight given her lower bps requiring fluid boluses of 1 liter total,
   and restart tomorrow.
   # h/o possible but not confirmed c. diff, not recently on treatment.
   Will send c.diff if suspicion is raised by diarrhea.
   # Asthma: can try MDI if necessary
   # h/o HTN: hold HCTZ/lisinopril overnight.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2104-4-29**] 09:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2104-04-30 09:54:00 Physician Attending Progress Note
Chief Complaint: post ercp, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  76 yo F here from ERCP for prolonged MV following removal of CBD
   stones.
   Pt has complicated MH with diastolic CHF, HBP, DM, COPD
   [**Month (only) 594**]-[**3-27**]
 hospit with PNA
 intubated with trach and prolonged
   wean. Decannulated since discharge to [**Hospital **] [**Hospital 2706**] Rehab/ [**Hospital **] Rehab.
   N,V, Abd pain on [**4-16**]. Abdom US neg but abdom CT showed CBD stones and
   she was transferred for ERCP with general anaesthesia with elective
   intubation.
   ERCP uncomplicated and she was transferred to the MICU intubated for
   close monitoring and planned extubation in AM.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2104-4-29**] 05:50 PM
 EKG - At [**2104-4-29**] 11:00 PM
   remained intubated overnight
   now with freq sx needs Q 1 hr--thick and white
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2104-4-30**] 06:02 AM
   Ciprofloxacin - [**2104-4-30**] 08:58 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-4-30**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 82 (60 - 100) bpm
   BP: 131/78(91) {95/56(67) - 156/78(91)} mmHg
   RR: 24 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,570 mL
                                                                    749 mL
   PO:
             TF:
   IVF:
                                                                  1,570 mL
                                                                    749 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                  1,020 mL
   Urine:
                                                                    282 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    988 mL
                                                                   -271 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 27 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/42/91/29/6
   Ve: 11.4 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: coarse, sym air movement
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   397 K/uL
   195 mg/dL
   0.9 mg/dL
   29 mEq/L
   5.0 mEq/L
   22 mg/dL
   101 mEq/L
   138 mEq/L
   28.3 %
   12.5 K/uL
        [image002.jpg]
                             [**2104-4-29**]  08:45 PM
                             [**2104-4-30**]  02:54 AM
   WBC
   12.5
   Hct
   29
   28.3
   Plt
   397
   Cr
   0.9
   TCO2
   31
   Glucose
   173
   195
   Other labs: PT / PTT / INR:13.3/25.6/1.1, ALT / AST:32/26, Alk Phos / T
   Bili:234/0.6, Albumin:3.2 g/dL, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Imaging: cxr--et ok, b/l haziness--prob edema with loss of r and l
   hemidiaph
   Microbiology: no data (need 0Sh records)
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
   76 yo obese F with DM, HTN, CAD, and recent hospitalization with
   pna/FTW s/p trach (now decannulated) and peg, on supp O2 at baseline
   who developed cholangitis and was transferred from OSH for ercp with
   removal of CBD stones which required general anesthesia and intubation.
   Pt was a difficult intubation and now has no cuff leak and sig thick
   secretions requiring Q 1 hr suctioning impacting ability to extubate at
   this time.
   Agree with plan to hold on extubation for now--Will send sputum cx
   perform aggressive chest pt and sx and continue MDIs.  Has # 7 ET so
   may not allow for cuff leak but given reportedly difficult intubation
   and recent ICU course with prior trach--will give 24 hrs of steroids
   and reassess for cuff leak tomorrow.  Currently being
   overventilated
Would change to PSV and if unable to tolerate would
   adjust MV to optimize abg by reducing TV on vent.  Pending reassessment
   in am, may attempt to extubate with anesthesia present or over cook
   cath.   Also reportedly completing course of antbx (levo) for resp
   infectious
need to clarify this via  osh records.
   In terms of cholangitis
is doing well.  cbd stones now removed.
   Remains HD stable.  LFTs decreasing.
   Wound care for decubs.
   Remainder as per housestaff note.
   ICU Care
   Nutrition:  restart TFs
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2104-4-29**] 09:07 PM
oicc consult
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  TFs
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : critically ill/remains in icu
   Total time spent:  40

2104-04-30 10:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2104-4-29**] 05:50 PM
   Continued Ventilation, small fluid requirements to maintain blood
   pressure
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-4-29**] 09:00 PM
   Metronidazole - [**2104-4-30**] 06:02 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-4-30**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 75 (60 - 92) bpm
   BP: 132/60(77) {95/56(67) - 132/69(83)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,570 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                  1,570 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                    800 mL
   Urine:
                                                                    282 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    988 mL
                                                                   -358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/42/91/29/6
   Ve: 5.1 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   397 K/uL
   9.2 g/dL
   195 mg/dL
   0.9 mg/dL
   29 mEq/L
   5.0 mEq/L
   22 mg/dL
   101 mEq/L
   138 mEq/L
   28.3 %
   12.5 K/uL
        [image002.jpg]
                             [**2104-4-29**]  08:45 PM
                             [**2104-4-30**]  02:54 AM
   WBC
   12.5
   Hct
   29
   28.3
   Plt
   397
   Cr
   0.9
   TCO2
   31
   Glucose
   173
   195
   Other labs: PT / PTT / INR:13.3/25.6/1.1, ALT / AST:32/26, Alk Phos / T
   Bili:234/0.6, Albumin:3.2 g/dL, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Imaging: CXR [**4-29**] 9:00pm: Slight improvement in LLL consolidation. ET
   Tube ~ 2cm from carina
   Microbiology: MRSA Screen P
   Assessment and Plan
   76 y/oF with multiple medical comorbidities and recent prolonged
   hospitalization for pneumonia/trach s/p ERCP with removal of CBD stones
   and sphincterotomy.  She remains afebrile and stable overnight.
   # Respiratory Failure/COPD/Asthma: The patient has done well on A/C
   overnight and tolerated a Pressure support trial.  She has a history
   difficult airway and currently has no cuff leak and copious secretion
   production. Concern for laryngeal edema versus pulmonary process as
   barriers to extubation.  Recent gas demonstrates likely overventilation
   of a COPD patient.
   - Hydrocort 50mg TID x1 day, reassess cuff leak tomorrow for extubation
   with anesthesia present
   - Change to Pressure Support to allow for patient controlled
   ventillation, PCO2 will likely drift to 50-60 to normalize her pH.
   - Obtain OSH records re recent PNA to help interpret CXR and current
   findings, as well as recent micro and abx
   - Nebs PRN
   - Repeat CXR
   - Sputum cultures
   - Defer Bronch today
   # CBD Stones
   - s/p ERCP now, will hold aspirin for now per advanced endoscopy team
   for now
   - will continue antibiotics for now peri-procedurally, and discuss with
   team for duration. Likely 24-48h and trend WBC since this has been
   managed interventionally. Cipro 400mg IV q12h and metronidazole 500mg
   IV q8h.
   - trend tbili, lfts
   # Diabetes: Noted to be Type 1.  Continue Home Lantus 28 units SC QHS
   and sliding scale given short steroid pulse.
   # Chronic Diastolic CHF:  Holding lisinopril now, will readdress given
   blood pressure throughout the day.
   # h/o HTN: hold HCTZ/lisinopril overnight.
   ICU Care
   Nutrition: NPO with IVF PRN
   Glycemic Control:  Regular insulin sliding scale, Home Lantus dose
   Lines:
   20 Gauge - [**2104-4-29**] 09:07 PM
   PICC to be placed
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
    ICU consent pending arrival of family today
   Code status: Full code
   Disposition:ICU

2104-05-01 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2104-4-30**] 10:30 AM
 PICC LINE - START [**2104-4-30**] 06:00 PM
   - started steroids as had no cuff leak and hx difficult extubation
   - increased lantus from 26 to 36 for high sugars
   - hct drop after hypotensive tachycardic episode, gave 1 Prbc, unable
   to get consent from family/hcp (no answer on phone). vitals resolved
   prior  to unit
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-4-30**] 08:00 PM
   Metronidazole - [**2104-5-1**] 05:38 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2104-4-30**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-1**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 35.6
C (96.1
   HR: 59 (55 - 118) bpm
   BP: 122/52(68) {83/36(49) - 137/105(110)} mmHg
   RR: 12 (12 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.3 kg (admission): 104.8 kg
           Total In:
                                                                  2,382 mL
                                                                    775 mL
   PO:
           TF:
   IVF:
                                                                  2,382 mL
                                                                    501 mL
   Blood products:
   274 mL
   Total out:
                                                                  2,060 mL
                                                                    515 mL
   Urine:
                                                                  2,060 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    322 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 488 (467 - 643) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/44/103/26/1
   Ve: 6.1 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: S1 & S2 regular without murmur
   Peripheral Vascular: 1+ Distal pulses bilaterally
   Respiratory / Chest: Symmetric chest expansion, anterior exam clear
   Abdominal: Soft, nontender, obese, PEG in place.
   Extremities: Trace bilateral edema
   Skin:  Not assessed
   Neurologic: Intubated & sedated, pupils reactive
   Labs / Radiology
   341 K/uL
   8.1 g/dL
   190 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   17 mg/dL
   97 mEq/L
   132 mEq/L
   27.5 %
   9.4 K/uL
        [image002.jpg]
                             [**2104-4-29**]  08:45 PM
                             [**2104-4-30**]  02:54 AM
                             [**2104-4-30**]  08:27 PM
                             [**2104-4-30**]  11:15 PM
                             [**2104-5-1**]  04:18 AM
   WBC
   12.5
   9.4
   Hct
   29
   28.3
   23.4
   27.5
   Plt
   397
   341
   Cr
   0.9
   0.7
   TCO2
   31
   28
   Glucose
   173
   195
   190
   Other labs: PT / PTT / INR:13.3/25.6/1.1, ALT / AST:18/16, Alk Phos / T
   Bili:169/0.7, Albumin:3.2 g/dL, LDH:182 IU/L, Ca++:8.2 mg/dL, Mg++:1.5
   mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: ET tube ~ 3.3cm from carina.  R PICC in place at SVC.
   Heavily rotated, continued haziness at R base
   Microbiology: Sputum Gram stain [**4-30**]:
   4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS AND
   CLUSTERS.
   Assessment and Plan
   76 y/oF with multiple medical comorbidities and recent prolonged
   hospitalization for pneumonia/trach s/p ERCP with removal of CBD stones
   and sphincterotomy.
   # Respiratory Failure/COPD/Asthma: The patient remains intubated after
   ERCP.  Given her lack of cuff leak yesterday, she was given a short
   course of glucocorticoids and today does have a cuff leak.  Of note,
   her sputum is positive for GPCs in clusters and pairs.  This could be
   HCAP, HAP or VAP or tracheobronchitis given her recent hospital courses
   and relatively short stay on a ventilator. She is tolerating PSV on
   [**9-22**] well
   - Extubation today pending Hct stability (see below)
   - Vancomycin 1g Q12 with trough after dose three pending speciation of
   her sputum flora
   - NPO for extubation
   # Blood volume instability: The patient had physiology and laboratory
   studies consistent with blood loss yesterday night, but as of yet has
   not demonstrated a bleeding source.  She was transfused 1 unit of blood
   and returned to within her pre-
bleed
 hematocrit.
   - Hematocrit at 11am and 7pm (TID), transfusing as necessary
   - Active T&S
   - Guaiac stools
   - monitor lines for bleeding
   # CBD Stones: S/P ERCP day 2, will continue antibiotics and continue
   PEG tube feeds once she is extubated
   - Appreciated ERCP recs
   # Diabetes: Type 1.  Continue Home Lantus 28 units SC QHS and sliding
   scale given short steroid pulse.
   # Chronic Diastolic CHF:  Holding lisinopril now, will readdress given
   blood pressure throughout the day.
   # h/o HTN: hold HCTZ/lisinopril overnight.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2104-4-29**] 09:07 PM
   PICC Line - [**2104-4-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2104-05-02 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2104-5-1**] 04:15 PM
   - First repeat Hct 25, second hct 27.0
   - Blood repeated lipemic, added on Triglycerides
   - Likely extubate in AM with anesthesia present
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-5-1**] 08:07 PM
   Ciprofloxacin - [**2104-5-1**] 09:33 PM
   Metronidazole - [**2104-5-2**] 04:53 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2104-5-2**] 04:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-2**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 69 (56 - 81) bpm
   BP: 98/41(55) {93/38(53) - 130/73(84)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.3 kg (admission): 104.8 kg
             Total In:
                                                                  2,821 mL
                                                                    486 mL
   PO:
             TF:
   IVF:
                                                                  2,547 mL
                                                                    461 mL
   Blood products:
                                                                    274 mL
   Total out:
                                                                  2,405 mL
                                                                  1,110 mL
   Urine:
                                                                  2,405 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                   -624 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (322 - 522) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.39/54/92.[**Numeric Identifier 641**]/29/5
   Ve: 6.4 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: S1 & S2 regular without murmur
   Peripheral Vascular: 1+ Distal pulses bilaterally
   Respiratory / Chest: Symmetric chest expansion, anterior exam clear
   Abdominal: Soft, nontender, obese, PEG in place.
   Extremities: Trace bilateral edema
   Skin:  Not assessed
   Neurologic: Intubated & sedated, pupils reactive
   Labs / Radiology
   336 K/uL
   8.4 g/dL
   105 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.1 mEq/L
   10 mg/dL
   112 mEq/L
   149 mEq/L
   25.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2104-4-29**]  08:45 PM
                             [**2104-4-30**]  02:54 AM
                             [**2104-4-30**]  08:27 PM
                             [**2104-4-30**]  11:15 PM
                             [**2104-5-1**]  04:18 AM
                             [**2104-5-1**]  01:59 PM
                             [**2104-5-1**]  09:53 PM
                             [**2104-5-1**]  10:19 PM
                             [**2104-5-2**]  04:40 AM
   WBC
   12.5
   9.4
   9.0
   Hct
   29
   28.3
   23.4
   27.5
   25.0
   27.0
   25.1
   Plt
   397
   341
   336
   Cr
   0.9
   0.7
   0.6
   TCO2
   31
   28
   34
   Glucose
   173
   195
   190
   105
   Other labs: PT / PTT / INR:13.3/25.6/1.1, ALT / AST:18/13, Alk Phos / T
   Bili:156/0.4, Albumin:3.2 g/dL, LDH:182 IU/L, Ca++:8.1 mg/dL, Mg++:1.5
   mg/dL, PO4:3.2 mg/dL
   Microbiology: MRSA Screen +
   Staph Aureus in Sputum
   Assessment and Plan
   76 y/oF with multiple medical comorbidities and recent prolonged
   hospitalization for pneumonia/trach s/p ERCP with removal of CBD stones
   and sphincterotomy.
   # Respiratory Failure/COPD/Asthma: The patient remains intubated after
   ERCP.  Given her lack of cuff leak yesterday, she was given a short
   course of glucocorticoids and today does have a cuff leak.  Of note,
   her sputum is positive for GPCs in clusters and pairs.  This could be
   HCAP, HAP or VAP or tracheobronchitis given her recent hospital courses
   and relatively short stay on a ventilator. She is tolerating PSV on
   [**9-22**] well
   - Extubation today pending Hct stability (see below)
   - Vancomycin 1g Q12 with trough after dose three pending speciation of
   her sputum flora
   - NPO for extubation
   # Blood volume instability: The patient had physiology and laboratory
   studies consistent with blood loss yesterday night, but as of yet has
   not demonstrated a bleeding source.  She was transfused 1 unit of blood
   and returned to within her pre-
bleed
 hematocrit.
   - Hematocrit at 11am and 7pm (TID), transfusing as necessary
   - Active T&S
   - Guaiac stools
   - monitor lines for bleeding
   # CBD Stones: S/P ERCP day 2, will continue antibiotics and continue
   PEG tube feeds once she is extubated
   - Appreciated ERCP recs
   # Diabetes: Type 1.  Continue Home Lantus 28 units SC QHS and sliding
   scale given short steroid pulse.
   # Chronic Diastolic CHF:  Holding lisinopril now, will readdress given
   blood pressure throughout the day.
   # h/o HTN: hold HCTZ/lisinopril overnight.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-4-29**] 09:07 PM
   PICC Line - [**2104-4-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Phone call with
   Granddaughter [**Name (NI) 1300**] [**Name (NI) 5981**]
   Code status: Full code
   Disposition:ICU

2104-05-03 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Repleting free water for hypernatremia (2.8L deficit) (148 to 134)
   - Restarted tube feeds with free water bolus (1L)
   - Transfused 1 unit of blood for hct <25 (up to 28 post-transfusion)
   - RISB this morning 130, changed from AC to PS 10/5 now PS 5/5
   -Vanco trough high, changed dose to 1g q24h.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-5-2**] 08:00 PM
   Ciprofloxacin - [**2104-5-2**] 08:51 PM
   Metronidazole - [**2104-5-3**] 05:59 AM
   Infusions:
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2104-5-2**] 12:21 PM
   Dextrose 50% - [**2104-5-2**] 04:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-3**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 80 (64 - 88) bpm
   BP: 123/51(67) {85/41(54) - 126/83(88)} mmHg
   RR: 18 (12 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.3 kg (admission): 104.8 kg
           Total In:
                                                                  3,851 mL
                                                                  1,682 mL
   PO:
           TF:
                                                                     62 mL
                                                                      6 mL
   IVF:
                                                                  3,290 mL
                                                                  1,659 mL
   Blood products:
                                                                    259 mL
                                                                     17 mL
   Total out:
                                                                  4,125 mL
                                                                    580 mL
   Urine:
                                                                  4,125 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -274 mL
                                                                  1,102 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 426 (333 - 426) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 99%
   ABG: ///30/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: S1 & S2 regular without murmur
   Peripheral Vascular: 1+ Distal pulses bilaterally
   Respiratory / Chest: Symmetric chest expansion, anterior exam clear
   Abdominal: Soft, nontender, obese, PEG in place.
   Extremities: Trace bilateral edema
   Skin:  Not assessed
   Neurologic: Intubated & sedated, pupils reactive, reacts to voice
   Labs / Radiology
   356 K/uL
   8.4 g/dL
   135 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   8 mg/dL
   97 mEq/L
   134 mEq/L
   28.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2104-4-30**]  02:54 AM
                             [**2104-4-30**]  08:27 PM
                             [**2104-4-30**]  11:15 PM
                             [**2104-5-1**]  04:18 AM
                             [**2104-5-1**]  01:59 PM
                             [**2104-5-1**]  09:53 PM
                             [**2104-5-1**]  10:19 PM
                             [**2104-5-2**]  04:40 AM
                             [**2104-5-2**]  03:12 PM
                             [**2104-5-3**]  04:16 AM
   WBC
   12.5
   9.4
   9.0
   7.8
   Hct
   28.3
   23.4
   27.5
   25.0
   27.0
   25.1
   24.6
   28.0
   Plt
   397
   341
   336
   356
   Cr
   0.9
   0.7
   0.6
   0.7
   0.6
   TCO2
   28
   34
   Glucose
   195
   190
   105
   43
   135
   Other labs: PT / PTT / INR:13.3/25.6/1.1, ALT / AST:18/13, Alk Phos / T
   Bili:156/0.4, Albumin:3.2 g/dL, LDH:182 IU/L, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: None
   Imaging: CXR pending
   Microbiology: Sputum Sensis Pending
   Assessment and Plan
   76 y/oF with multiple medical comorbidities and recent prolonged
   hospitalization for pneumonia/trach s/p ERCP with removal of CBD stones
   and sphincterotomy.
   .
   # Respiratory Failure/COPD/Asthma: The patient remains intubated after
   ERCP though she did not have lung pathology (besides underlying lung
   disease) prior to intubation.  She now has MRSA growing in her sputum
   and likely had too much volume overnight for her hypernatremia.  Her
   RISB is high and her current respiratory status during a spontaneous
   breathing trial suggests that she will not be an easy extubation.
   Will aim for extubation tonight vs. tomorrow AM
   -ABG on [**4-22**] after 3-4 hours
   -Bronch today to make sure her airway is clear before extubation
   - Continue Vancomycin but change dose from 1g Q12 to 1g q24 given high
   trough
   - Resume TF for now,  NPO for extubation tomorrow
   - Stop d5@150.
   .
   # Blood volume instability: The patient bumped appropriately and has no
   identifiable bleeding source.
   - Hematocrit [**Hospital1 **]
   - Active T&S
   - Guaiac stools
   - monitor lines for bleeding
   - transfuse for HCT <24
   #Hypernatremia: Resolved with intiation of free water and tube feeds.
   -stop d5
   -continue free water with tube feeds
   -PM sodium
   .
   # CBD Stones: S/P ERCP day 3, will continue antibiotics and continue
   PEG tube feeds once she is extubated
   -Continue Cipro/Flagyl
   - Appreciated ERCP recs
   # Diabetes: Type 1.  Continue Home Lantus at 26 units SC QHS and
   sliding scale given short steroid pulse.
   # Chronic Diastolic CHF:  Holding lisinopril now, patient remains
   normotensive.
   # h/o HTN: hold HCTZ/lisinopril.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-4-29**] 08:58 PM
   PICC Line - [**2104-4-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To ICU while intubated
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 5938**] is slightly more awake on decreasing levels of sedation but
   not completely oriented as yet. Secretions may have increased from ETT
   without fever or increasing O2 need.
   Exam notable for elderly BF who reponds only to pain Tm99 BP 155/70 HR
   of 88 RR of 24 with sats of 98% on 40% FiO2 . She has decreased BS at
   bases but no wheezing. minimal edema noted too.
    Labs notable for WBC 7.8 K, HCT 28 , K+3.7 , Cr 0.6 . CXR with
   bibasilar ASD vs atelectasis
   Agree with plan to lighten sedation and continue prolonged PSV/ CPAP
   trial . She will benefit from bronchosocpy to aid with secretion
   clearance. Suspect if there are no hemodynamic setbacks in next 24 hrs,
   we will plan for extubation in am [**5-4**]
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2104-5-3**] 03:00 PM ------

2104-05-04 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2104-5-3**] 01:30 PM
   - had bronchoscopy showing mucoid secretions
   - hct stable
   - sedation turned off this morning at 0730 in preparation for
   extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-5-2**] 08:00 PM
   Ciprofloxacin - [**2104-5-3**] 07:42 PM
   Metronidazole - [**2104-5-4**] 05:11 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2104-5-3**] 01:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-4**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 76 (66 - 100) bpm
   BP: 112/51(64) {94/43(55) - 134/93(103)} mmHg
   RR: 10 (10 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.3 kg (admission): 104.8 kg
             Total In:
                                                                  3,938 mL
                                                                    452 mL
   PO:
             TF:
                                                                      6 mL
   IVF:
                                                                  3,815 mL
                                                                    452 mL
   Blood products:
                                                                     17 mL
   Total out:
                                                                  3,450 mL
                                                                  1,190 mL
   Urine:
                                                                  3,450 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    488 mL
                                                                   -738 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 506 (238 - 775) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 5 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese,
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: S1 & S2 regular without murmur
   Peripheral Vascular: 1+ Distal pulses bilaterally
   Respiratory / Chest: Symmetric chest expansion, anterior exam clear
   Abdominal: Soft, nontender, obese, PEG in place.
   Extremities: Trace bilateral edema
   Skin:  Not assessed
   Neurologic: Intubated but awake and alert, responds to commands
   Labs / Radiology
   327 K/uL
   9.8 g/dL
   140 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   8 mg/dL
   102 mEq/L
   133 mEq/L
   32.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2104-4-30**]  11:15 PM
                             [**2104-5-1**]  04:18 AM
                             [**2104-5-1**]  01:59 PM
                             [**2104-5-1**]  09:53 PM
                             [**2104-5-1**]  10:19 PM
                             [**2104-5-2**]  04:40 AM
                             [**2104-5-2**]  03:12 PM
                             [**2104-5-3**]  04:16 AM
                             [**2104-5-3**]  03:20 PM
                             [**2104-5-4**]  04:47 AM
   WBC
   9.4
   9.0
   7.8
   9.3
   7.8
   Hct
   23.4
   27.5
   25.0
   27.0
   25.1
   24.6
   28.0
   31.5
   32.0
   Plt
   [**Telephone/Fax (3) 5995**]30
   327
   Cr
   0.7
   0.6
   0.7
   0.6
   0.6
   TCO2
   34
   Glucose
   190
   105
   43
   135
   140
   Other labs: PT / PTT / INR:13.3/24.4/1.1, ALT / AST:14/25, Alk Phos / T
   Bili:138/0.5, Albumin:3.2 g/dL, LDH:200 IU/L, Ca++:8.1 mg/dL, Mg++:1.6
   mg/dL, PO4:4.1 mg/dL
   BAL:  gram positive cocci in pairs and clusters
   [**5-1**] blood cx:  NGTD
   [**4-30**] sputum:  MRSA
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
   76 y/oF with multiple medical comorbidities and recent prolonged
   hospitalization for pneumonia/trach s/p ERCP with removal of CBD stones
   and sphincterotomy.
   .
   # Respiratory Failure/COPD/Asthma: The patient remains intubated after
   ERCP though she did not have lung pathology (besides underlying lung
   disease) prior to intubation.  She now has MRSA growing in her sputum
   and likely contribution from volume.  Broncoscopy yesterday did not
   show any clear barrier to extubation.   Good cough and + cuff leak.
   Currently on [**9-22**] with 40% FiO2 and appears ready for extubation.
   - Extubate
   - Monitor respiratory status
   - Continue Vancomycin (day 1=[**5-1**], dose decreased [**5-3**], will need
   trough [**5-5**])
   - Change MDI to nebulizers, as she is unable to cooperate with MDI
   .
   # Blood volume instability: Hct stable yesterday without further
   transfusions.  No identifiable source of bleeding.
   - Hematocrit [**Hospital1 **]
   - Active T&S
   - Guaiac stools
   - monitor lines for bleeding
   - transfuse for HCT <24
   #Hypernatremia: Resolved with intiation of free water and tube feeds.
   Currently mildly hyponatremic.
   - no further d5
   .
   # CBD Stones: She did not have cholangitis, rather stones + pain.  Now
   s/p ERCP day 4.
   - Continue Cipro/Flagyl (day 1=[**4-28**])
   - clarify antibiotic course with ERCP
   # Diabetes: Type 1.
   - Continue Home Lantus at 26 units SC QHS and sliding scale
   # Chronic Diastolic CHF:  Holding lisinopril now, patient remains
   normotensive.
   # h/o HTN: she has been normotensive
   - hold outpatient regmin of HCTZ and lisinopril
   ICU Care
   Nutrition: tube feeds (stopped at MN [**5-3**]), resume today, possible S&S
   evaluation tomorrow
   Glycemic Control:  lantus + SS insulin
   Lines:
   20 Gauge - [**2104-4-29**] 08:58 PM
   PICC Line - [**2104-4-30**] 06:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 5938**] is more awake on decreasing levels of sedation and oriented
   to simple commands. Bronchoscopy did reveal moderate secretions in
   lower lobes but without purulence.
   Exam notable for elderly BF who responds only to pain Tm 99.6 BP
   134/70 HR of 88 RR of 24 with sats of 98% on 40% FiO2 . She has
   decreased BS at bases but no wheezing. There is minimal edema noted
   too. Her RSBI is 60
    Labs notable for WBC 7.8 K, HCT 32, K+ 4.2 , Cr 0.6 . CXR with
   bibasilar ASD ( R> L)
   Agree with plan to extubate today. She appears ready for this. She will
   need help with secretion clearance after extubation but hopefully with
   improved mentation and good cough she will be able to handle this.
   Antibioitics to be continued per culture review.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2104-5-4**] 16:02 ------

2104-05-05 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated in AM, doing well from respiratory standpoint
   - Restarted home antihypertensives (HCTZ 12.5mg and lisinopril 20mg)
   - Restarted tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-5-2**] 08:00 PM
   Ciprofloxacin - [**2104-5-4**] 07:51 PM
   Metronidazole - [**2104-5-4**] 10:17 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-5-4**] 10:17 PM
   Heparin Sodium (Prophylaxis) - [**2104-5-5**] 02:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-5**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 110 (82 - 117) bpm
   BP: 138/66(83) {113/47(68) - 175/101(104)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.3 kg (admission): 104.8 kg
             Total In:
                                                                  1,501 mL
                                                                    374 mL
   PO:
             TF:
                                                                     79 mL
                                                                    339 mL
   IVF:
                                                                  1,262 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    680 mL
   Urine:
                                                                  2,950 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,449 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 2%
   PIP: 8 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 11.8 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese,
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1 & S2 regular without murmur
   Peripheral Vascular: 1+ Distal pulses bilaterally
   Respiratory / Chest: Symmetric chest expansion, upper respiratory
   sounds, RLL rales with scant rhonchi
   Abdominal: Soft, nontender, obese, PEG in place.
   Extremities: Trace bilateral edema
   Neurologic: Awake and alert, responds to commands
   Labs / Radiology
   287 K/uL
   10.4 g/dL
   227 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   7 mg/dL
   107 mEq/L
   143 mEq/L
   31.8 %
   8.1 K/uL
        [image002.jpg]
                             [**2104-5-1**]  01:59 PM
                             [**2104-5-1**]  09:53 PM
                             [**2104-5-1**]  10:19 PM
                             [**2104-5-2**]  04:40 AM
                             [**2104-5-2**]  03:12 PM
                             [**2104-5-3**]  04:16 AM
                             [**2104-5-3**]  03:20 PM
                             [**2104-5-4**]  04:47 AM
                             [**2104-5-4**]  03:13 PM
                             [**2104-5-5**]  05:55 AM
   WBC
   9.0
   7.8
   9.3
   7.8
   8.1
   Hct
   25.0
   27.0
   25.1
   24.6
   28.0
   31.5
   32.0
   33.5
   31.8
   Plt
   [**Telephone/Fax (3) 6011**]27
   287
   Cr
   0.6
   0.7
   0.6
   0.6
   0.7
   TCO2
   34
   Glucose
   105
   43
   135
   140
   227
   Other labs: PT / PTT / INR:13.3/24.4/1.1, ALT / AST:17/26, Alk Phos / T
   Bili:140/0.5, Albumin:3.2 g/dL, LDH:200 IU/L, Ca++:8.1 mg/dL, Mg++:1.4
   mg/dL, PO4:4.1 mg/dL
   Imaging: CXR: ET Tube removed.  R PICC in place.  RML Consolidation
   clearing but present.  Overall improved
   Microbiology: BAL:
   GRAM STAIN (Final [**2104-5-3**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS AND
   CLUSTERS.
    RESPIRATORY CULTURE (Preliminary):
         ? OROPHARYNGEAL FLORA.
         STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML       OF TWO
   COLONIAL MORPHOLOGIES.
   SENSITIVITIES PERFORMED ON CULTURE # 273-1147T ([**2104-4-30**]).
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2104-5-4**]):    NEGATIVE for Pneumocystis jirovecii (carinii).
   Assessment and Plan
   76 y/oF s/p ERCP, MRSA PNA s/p intubation.  She is doing well post
   extubation and actually has a decreased oxygen requirement from her
   reported baseline.
   # MRSA PNA c/b COPD, Asthma: The patient is doing well on room air
   after extubation.  She has a known MRSA PNA for which she is receiving
   Vancomycin.
   - Continue vancomycin for 10 day course to end on Monday [**5-12**]
   # CBD Stones: Patient s/p ERCP for stone removal.  The plan is to
   continue Cipro/Flagyl for a 10 day total course, ending [**5-8**].
   # Diabetes: Type 1.
   - Continue Home Lantus at 26 units SC QHS and sliding scale
   # Chronic Diastolic CHF/HTN:  Restarted Lisinopril & HCTZ and the
   patient is doing well.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-5-4**] 08:03 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2104-4-30**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor